US05610174
Synthesis of (±)-6-Methoxy-3,4,4a,5,10,10a-hexahydro-2H-naphtho[2,3-b][1,4]oxazine.
To a solution of 6-methoxy-4a,5,10,10a-tetrahydro-4H-naphto[2,3-b][1,41oxazin-3-one (1.4 g, 6.0 mmol) in 100 ml of THF was added 10 ml of LiAlH4 solution in THF (10 mmol). The resulting solution was stirred for 2 h at reflux. The reaction was quenched with ice and the reaction mixture was then diluted with EtOAc. Filtration of the reaction mixture provided a clean organic layer which was concentrated in vacuo to yield 1.2 g (92%) of the desired product as a colorless oil. 1H NMR (300 MHz, CDCl3): δ 1.85 (s, 1H), 2.34 (dd, 1H, J=12.0, 17.0 Hz), 2.78-3.16 (m, 6H), 3.50 (ddd, 1H, J=5.2, 6.8, 10.5 Hz), 3.74 (m, 1H), 3.81 (s, 3H), 3.94 (m, 1H), 6.70 (m, 2H), 7.16 (t, 1H, J=7.6 Hz).

reactant | 6-methoxy-4a,5,10,10a-tetrahydro-4H-naphto[2,3-b][1,41oxazin-3-one | 6.0 mmol, 1.4 g | COC1=C2CC3C(OCC(N3)=O)CC2=CC=C1 | C13H15NO3
reactant | LiAlH4 | 10 ml | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | THF | 100 ml | C1CCOC1 | C4H8O
solvent | THF | 10 mmol | C1CCOC1 | C4H8O
product | (±)-6-Methoxy-3,4,4a,5,10,10a-hexahydro-2H-naphtho[2,3-b][1,4]oxazine | 1.2 g, 92% | COC1=C2CC3C(OCCN3)CC2=CC=C1 | C13H17NO2
